US07129237B2
8-fluoro-7-methoxy-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine
To a solution of 8-fluoro-7-methoxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (5.1 g, 227 mmol) dissolved in THF (39.8 mL) was added lithium aluminum hydride (1M solution in THF, 102.4 mL, 102.4 mmol) dropwise. The reaction mixture was heated to reflux. After 26 hours, an additional equivalent of lithium aluminum hydride in THF (22.7 mmol) was added. At 30 hours, the reaction was quenched with water, 15% NaOH and an additional portion of water. The precipitate was filtered and washed with ethyl acetate. THF was removed from the filtrate, and then ethyl acetate and water were added to the flask. All the contents in the flask were transferred to the separatory funnel and extracted with ethyl acetate (3×). The combined organic layers were then washed with brine (1×), dried with magnesium sulfate, filtered and concentrated to give a brown oil. Further purification (15% ammonia in 2M solution of ethanol/ethyl acetate) yielded the desired product.

reactant | 8-fluoro-7-methoxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 227 mmol, 5.1 g | FC1=CC2=C(C(NCC(N2)=O)=O)C=C1OC | C10H9FN2O3
reactant | lithium aluminum hydride | 102.4 mmol, 1M, 102.4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 39.8 mL | C1CCOC1 | C4H8O
solvent | THF | 22.7 mmol | C1CCOC1 | C4H8O
product | 8-fluoro-7-methoxy-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | FC1=CC2=C(CNCCN2)C=C1OC | C10H13FN2O
